US07838483B2
Anthranilonitrile (1 g, 8,5 mmol) and hydroxylamine (50% in water, 0.57 cm3, 9.3 mmol, 1.1 eq) in EtOH (42.5 cm3) were stirred under reflux for 24 hours, after which the volatiles were removed under reduced pressure and residue was partitioned between water (5 cm3) and CH2Cl2 (100 cm3). The organic phase was evaporated to dryness in the rotary evaporator followed by high vacuum line to give the product 2-amino-N′-hydroxybenzimidamide (1.16 g, 90.3%) as a solid, mp 85-86° C.

reactant | Anthranilonitrile | 8,5 mmol, 1 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | hydroxylamine | 9.3 mmol, 0.57 cm3, 1.1 eq | NO | H3NO
solvent | EtOH | 42.5 cm3 | CCO | C2H6O
product | 2-amino-N′-hydroxybenzimidamide | 1.16 g, 90.3% | NC1=C(C(N)=NO)C=CC=C1 | C7H9N3O
